data/oMe_Silver.jsonl
{"reaction_id": "NR-227_1-c2ccccc2_2-CCCC","level": "hard","name": "Pomeranz-Fritsch Isoquinoline Synthesis","reactants_smiles": ["O=C(c2ccccc2)c1ccccc1","NC(C(OCCCC)(OCCCC))c1ccccc1"],"products_smiles": ["C1=CC=CC2=C1C=C(c3ccccc3)N=C(c2ccccc2)2"],"conditions": "acidic conditions","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccccc1)(c2ccccc2)=NC(c1ccccc1)C(OCCCC)(OCCCC)","step_weight": 0,"rationale": "The amine nitrogen attacks the electrophilic carbonyl carbon, facilitated by acid activation of the carbonyl, forming a stabilized carbinolamine intermediate."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccccc1)(c2ccccc2)=NC(c1ccccc1)C(=[O+]CC)","step_weight": 0,"rationale": "Protonation of the hydroxyl group enhances its leaving ability, allowing water elimination to form an iminium ion stabilized by conjugation with the aromatic ring."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C(c1ccccc1)(c2ccccc2)=NC(c1ccccc1)=C([O]CC)","step_weight": 0,"rationale": "Loss of a proton adjacent to the iminium generates an enamine, driven by increased conjugation and relief of positive charge."},{"step": 4,"type": "cyclization","subtype": "aromatic_electrophilic_substitution","intermediate_smiles": "C(=C1C2C=CC=C1)(c2ccccc2)N=C(c1ccccc1)C2([O]CC)","step_weight": 0,"rationale": "The electron-rich aromatic ring attacks the electrophilic iminium carbon intramolecularly, favored by proximity and acid-promoted electrophilicity, forming the bicyclic framework."},{"step": 5,"type": "aromatization","subtype": "dehydration","intermediate_smiles": "C1=CC=CC3=C1C=C(C2=CC=CC=C2)N=C3(c2ccccc2)","step_weight": 0,"rationale": "Dehydration restores full aromaticity in the heterocyclic ring, a thermodynamically favorable step under acidic, dehydrating conditions."}],"description": "Under acidic conditions, the amine condenses with the carbonyl to form an iminium intermediate, which undergoes dehydration and rearrangement. Subsequent intramolecular electrophilic aromatic substitution closes the isoquinoline ring, followed by dehydration-driven aromatization to yield the heteroaromatic product."}
{"reaction_id": "NR-202_1-c1ccc(Cl)cc1_2-CC_3-c1ccc([N+](=O)[O-])cc1","level": "medium","name": "Neber Rearrangement","reactants_smiles": ["C(c1ccc(Cl)cc1)(CC)C(=NOS(=O)(=O)c1ccc(C)cc1)c1ccc([N+](=O)[O-])cc1"],"products_smiles": ["c1ccc([N+](=O)[O-])cc1C(=O)C(c1ccc(Cl)cc1)(CC)N"],"conditions": "Base, H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[C-](c1ccc(Cl)cc1)(CC)C(=NOS(=O)(=O)c1ccc(C)cc1)c1ccc([N+](=O)[O-])cc1","step_weight": 0,"rationale": "The base abstracts the relatively acidic alpha-proton due to resonance stabilization of the resulting carbanion by the adjacent oxime group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccc([N+](=O)[O-])cc1C2=NC(c1ccc(Cl)cc1)(CC)2","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the oxime nitrogen intramolecularly, forming a strained azirine ring and displacing the tosylate, a good leaving group stabilized by resonance."},{"step": 3,"type": "rearrangement","subtype": "rearrangement","intermediate_smiles": "C(c1ccc([N+](=O)[O-])cc1)2(C(c1ccc(Cl)cc1)(CC)[N-]2)O","step_weight": 0,"rationale": "Water adds to the electrophilic azirine carbon, driven by ring strain relief and polarization of the C–N bond."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc([N+](=O)[O-])cc1)2(C(c1ccc(Cl)cc1)(CC)[NH]2)[O-]","step_weight": 0,"rationale": "Proton transfer from the coordinated water to nitrogen stabilizes the intermediate, favored in aqueous medium."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc([N+](=O)[O-])cc1C(C(c1ccc(Cl)cc1)(CC)[NH-])=O","step_weight": 0,"rationale": "Elimination of hydroxide from the intermediate occurs to form the carbonyl, driven by the stability of the ketone and the good leaving ability of hydroxide under these conditions."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc([N+](=O)[O-])cc1C(=O)C(c1ccc(Cl)cc1)(CC)N","step_weight": 0,"rationale": "Final protonation of the nitrogen yields the neutral alpha-amino ketone, favored under aqueous conditions for product stability."}],"description": "Under basic aqueous conditions, the alpha-proton adjacent to the oxime tosylate is deprotonated, enabling intramolecular cyclization to an azirine via tosylate departure. Subsequent hydrolytic ring opening, proton transfers, and rearrangement yield the thermodynamically stable alpha-amino ketone."}
